US06004959
6,4'-diisopropyloxy-2'-methoxy-biphenyl-2-carboxylic acid
Prepare a solution of 2-(6,4'-diisopropyloxy-2 '-methoxy-biphenyl-2-yl)-3,4,4-trimethyl-oxazolinium iodide (13.20 g, 0.0245 mole) in 20% NaOH (140 mL) and methanol (140 mL) and stir at reflux overnight. Concentrate the resulting colorless solution on the rotovap until precipitation begins. Dilute the resulting suspension to 300 mL with water and acidify with concentrated HCl to pH=1. Extract the precipitate into CH2Cl2 (400 mL), wash with brine, separate and dry over MgSO4. Filter, concentrate and recrystallize from cyclohexane (~175 mL) to obtain the title compound (7.10 g, 84%). m.p. 117-119° C.

reactant | 2-(6,4'-diisopropyloxy-2 '-methoxy-biphenyl-2-yl)-3,4,4-trimethyl-oxazolinium iodide | 0.0245 mole, 13.20 g | [I-].C(C)(C)OC1=CC=CC(=C1C1=C(C=C(C=C1)OC(C)C)OC)C=1OCC([N+]1C)(C)C
reactant | NaOH | 140 mL | [OH-].[Na+]
solvent | methanol | 140 mL | CO | CH4O
product | 6,4'-diisopropyloxy-2'-methoxy-biphenyl-2-carboxylic acid | 7.10 g, 84% | C(C)(C)OC=1C=CC=C(C1C1=C(C=C(C=C1)OC(C)C)OC)C(=O)O | C20H24O5
